### PR TITLE
add BSD.lean, starting with simple l-function stuff

### PR DESCRIPTION
**Pull request by BarinderBanwait**
making a start on BSD.lean, i have created a file with docs and many references including @tadamcz's code, and starting with a few simple things about L-functions.

used the existing mathlib L-functions stuff as much as possible. very minimal lean code in this PR, it's mostly docstring

requesting @tb65536  and @multramate to sign off on this before proceeding further

### CODE REVIEW

File: FormalConjectures/Millenium/BSD.lean [hunk 1]
```diff
@@ -0,0 +1,74 @@
...
+theorem IsLFunction.apply_eq {L L' : ℂ → ℂ} (hL : IsLFunction E L) (hL' : IsLFunction E L')
+    (s : ℂ) : L s = L' s :=
+  congrFun (hL.unique hL') s
+
+/-- **Hasse--Weil conjecture** for elliptic curves over $\mathbb{Q}$, a consequence of the modularity
+theorem: the $L$-function of an elliptic curve over $\mathbb{Q}$ extends to an entire function.
+Over a general number field this is open. -/
+@[category research solved, AMS 11 14]
+theorem exists_isLFunction (E : WeierstrassCurve ℚ) [E.IsElliptic] : ∃ L, IsLFunction E L := by
+  sorry
```
Comment (Multramate) [inline FormalConjectures/Millenium/BSD.lean]: My suggestion is to have it for both kinds of global fields, and then tag it as open. Then have separate theorems for Q and function fields that are marked as research solved.

**Review by Multramate — CHANGES_REQUESTED** [review]

File: FormalConjectures/Millenium/BSD.lean [hunk 2]
```diff
@@ -0,0 +1,74 @@
...
+- [Ada] Tom Adamczewski. "Autoformalized conjectures",
+  [Birch and Swinnerton-Dyer](https://tadamcz.com/autoformalization-results/#/p/wp-birch-and-swinnerton-dyer-conjecture)
+-/
+
+namespace BirchSwinnertonDyer
+
+variable {K : Type*} [Field K] [NumberField K] {E : WeierstrassCurve K}
+
+def IsLFunction (E : WeierstrassCurve K) (L : ℂ → ℂ) : Prop :=
+  Differentiable ℂ L ∧ ∀ s : ℂ, 3 / 2 < s.re → L s = E.LSeries s
```
Comment (tb65536) [inline FormalConjectures/Millenium/BSD.lean]:
```suggestion
  Meromorphic ℂ L ∧ ∀ s : ℂ, 3 / 2 < s.re → L s = E.LSeries s
```

File: FormalConjectures/Millenium/BSD.lean (hunk 1 above)
Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: hmmm ... but the L-function is only defined in mathlib over number fields, using Euler product over `HeightOneSpectrum (𝓞 K)`; unless you're suggesting defining the L-function over function fields too?

Comment (Multramate) [reply FormalConjectures/Millenium/BSD.lean]: Yeah, it's fine to stick with number fields for now I guess, but in any case it shouldn't be open,

File: FormalConjectures/Millenium/BSD.lean (hunk 2 above)
Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: done; this required some other changes in the uniqueness proof too so do check latest

**Review by tb65536 — APPROVED** [review]

File: FormalConjectures/Millenium/BSD.lean [hunk 3]
```diff
@@ -0,0 +1,68 @@
...
+      (by norm_num)) fun s hs => sub_eq_zero.2 ((hL.2 s hs).trans (hL'.2 s hs).symm)
+  have key : meromorphicOrderAt (L - L') x = ⊤ := not_not.1 fun hx =>
+    (hL.1.sub hL'.1).exists_meromorphicOrderAt_ne_top_iff_forall.1 ⟨x, hx⟩ 2 h2
+  exact (meromorphicOrderAt_eq_top_iff.1 key).mono fun s hs => sub_eq_zero.1 hs
+
+/-- **Hasse--Weil conjecture** for elliptic curves over $\mathbb{Q}$, a consequence of the
+modularity theorem: the $L$-function of an elliptic curve over $\mathbb{Q}$ extends to the whole
+plane. Over a general number field this is open. -/
+@[category research open, AMS 11 14]
+theorem exists_isLFunction (E : WeierstrassCurve ℚ) [E.IsElliptic] : ∃ L, IsLFunction E L := by
```
Comment (Multramate) [inline FormalConjectures/Millenium/BSD.lean]: I think you mean over number fields? Then you can have another theorem right after this for K = Q that's marked as solved.

**Review by Multramate — CHANGES_REQUESTED** [review]

File: FormalConjectures/Millenium/BSD.lean (hunk 3 above)
Comment (BarinderBanwait) [reply FormalConjectures/Millenium/BSD.lean]: aah shoot yeah you're right; fixed in latest commit

**Review by Multramate — APPROVED** [review]

**Review by mo271 — APPROVED** [review]
